US05962002
To a stirred solution of diisopropylamine (7.47 g, 73.8 mmol) in dry THF at -78° C. under nitrogen was added n-butyllithium(2.5M, 29.5 ml, 73 8 mmol). The mixture was stirred for 10 minutes before cycloheptanecarboxylic acid (2.10 g, 14.8 mmol) was added dropwise and the reaction stirred at -78° C. for a further 10 minutes before refluxing for a further 2 hours. The reaction was cooled to 0° C. and methyl iodide (5.76 g, 40.6 ml) was added dropwise before refluxing for a further 1 hour before cooling to room temperature. The reaction mixture was poured onto an admixture of water/ether (100 ml/SO ml) and the aqueous layer was separated, acidified with dilute hydrochloric acid (2M) and extracted with ether (5×25 ml). The combined ether layers were washed with water (2×50 ml) and saturated sodium chloride solution (50 ml) before being dried over MgSO4. Filtration and evaporation of solvent under reduced pressure yielded the 1-methylcycloheptanecarboxylic acid which was recrystallised from hexane (2.20 g, mp 46° C.). The title compound was produced by the method of Example 24 using this acid in place of the 1-methylcyclopentanecarboxylic acid.

reactant | diisopropylamine | 73.8 mmol, 7.47 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 8 mmol, 2.5M, 29.5 ml | C(CCC)[Li]
reactant | cycloheptanecarboxylic acid | 14.8 mmol, 2.10 g | C1(CCCCCC1)C(=O)O | C8H14O2
reactant | methyl iodide | 40.6 ml, 5.76 g | CI | CH3I
solvent | THF | C1CCOC1 | C4H8O
solvent | water ether | 100 ml | O.CCOCC
product | 1-methylcycloheptanecarboxylic acid | CC1(CCCCCC1)C(=O)O | C9H16O2
